US04587342
2,4-Diamino-5-(7,8-dimethoxy-2-oxo-2H-1-benzopyran-5-ylmethyl)pyrimidine
A mixture of 1.38 g (0.005 mole) of 2,4-diamino-5-(3-hydroxy-4,5-dimethoxybenzyl)pyrimidine and 1.01 g (0.0075 mole) of L-(-)-malic acid in polyphosphoric acid (30 g) was heated at 90°-100° for 4 hours. The resulting clear syrup was poured into ice-water (150 mL) and basified (pH 8) with conc'd ammonium hydroxide. The title compound was filtered off and washed with ethanol. Yield, 0.26 g (16%); m.p. 278°-280° dc; structure confirmed by 13C and 1H NMR and mass spectra. Anal. Calcd. for C16H18N4O3 : C, 58.53; H, 4.91; N, 17.07. Found: C, 58.27; H, 4.99; N, 16.97.

reactant | 2,4-diamino-5-(3-hydroxy-4,5-dimethoxybenzyl)pyrimidine | 0.005 mole, 1.38 g | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC)OC)O | C13H16N4O3
reactant | L-(-)-malic acid | 0.0075 mole, 1.01 g | C([C@@H](C(=O)O)O)C(=O)O | C4H6O5
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 2,4-Diamino-5-(7,8-dimethoxy-2-oxo-2H-1-benzopyran-5-ylmethyl)pyrimidine | NC1=NC=C(C(=N1)N)CC1=CC(=C(C2=C1C=CC(O2)=O)OC)OC | C16H16N4O4
